US03943943
Reaction of p-methoxycinnamyl alcohol with ethyl iodide in the same manner as described under Example III gave an 80% yield of ethyl p-methoxycinnamyl ether after molecular distillation (vacuum, 105° C): λmaxCCl4 6.1, 6.6, 6.75, 8.0, 8.55, 8.92, 9.55, 10.15, 10.8, and 12.05 μ.

reactant | p-methoxycinnamyl alcohol | COC1=CC=C(C=CCO)C=C1 | C10H12O2
reactant | ethyl iodide | C(C)I | C2H5I
product | ethyl p-methoxycinnamyl ether | 80% yield | COC1=CC=C(C=CCOCC)C=C1 | C12H16O2
